US07285563B2
N-[4-(trifluoromethyl)benzyl]-N′-[3-(trifluoromethyl)isoquinolin-5-yl]urea
Prepared from 3-(trifluoromethyl)isoquinolin-5-amine (Description 64) and [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to the procedure of Description 61. m/z (ES+) 414 (M+H)+.

reactant | 3-(trifluoromethyl)isoquinolin-5-amine | FC(C=1N=CC=2C=CC=C(C2C1)N)(F)F | C10H7F3N2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-[4-(trifluoromethyl)benzyl]-N′-[3-(trifluoromethyl)isoquinolin-5-yl]urea | FC(C1=CC=C(CNC(=O)NC2=C3C=C(N=CC3=CC=C2)C(F)(F)F)C=C1)(F)F | C19H13F6N3O
